US09382237B2
2-cyano-3-((4-(dimethylamino)phenyl)amino)-3-(methylthio)acrylamide (0.997 g) was suspended in 10 mL of ethanol and hydrazine hydrate (337 μL, 1.5 eq.) was added drop wise to the reaction. The reaction was then heated at 75° C. until the starting material was no longer present and confirmed via HPLC. Once starting material was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((4-(dimethylamino)phenyl)amino)-1H-pyrazole-4-carboxamide as an off white to yellow powder. The product was allowed to dry under vacuum for 1 hr (900 mg, 72% yield).

reactant | 2-cyano-3-((4-(dimethylamino)phenyl)amino)-3-(methylthio)acrylamide | 0.997 g | C(#N)C(C(=O)N)=C(SC)NC1=CC=C(C=C1)N(C)C | C13H16N4OS
reactant | hydrazine hydrate | 337 μL, 1.5 eq. | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-amino-3-((4-(dimethylamino)phenyl)amino)-1H-pyrazole-4-carboxamide | 72% yield | NC1=C(C(=NN1)NC1=CC=C(C=C1)N(C)C)C(=O)N | C12H16N6O
